US06953857B2
(ii) 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-benzoic acid
1 g (3.07 mmol) of 3-[2-(2,4-Dichlorophenyl)-ethoxy]-benzoic acid methyl ester was dissolved in 20 ml of dioxan. 2N aqueous NaOH was added to the solution to give a pH of 13. The reaction solution was heated at 50° C. for 3 h, and stirred at RT for 16 h. 5 ml water was added, followed by concentrated hydrochloric acid to give a pH of 1 to 2, whereupon the product precipitated from solution. The suspension was stirred for 30 min, then the product was filtered off and dried under reduced pressure.

reactant | 3-[2-(2,4-Dichlorophenyl)-ethoxy]-benzoic acid methyl ester | 3.07 mmol, 1 g | COC(C1=CC(=CC=C1)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C16H14Cl2O3
reactant | NaOH | 2N | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-benzoic acid | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)O)C=CC1 | C15H12Cl2O3
